US06521754B2
2-Methoxy-N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-benzamide
To a solution of 2-amino-4-methoxy-7-phenyl-benzothiazole (200 mg, 0.67 mmol) in THF (10 m) was added DMAP (10 mg, 0.08 mmol), triethylamine (163 □l, 1.17 mmol) and 2-methoxybenzoyl chloride (136 □1, 1 mmol) in THF (2 ml). The mixture was then heated to reflux for 2 h, after cooling, it was partitioned between 1:1 AcOEt/THF (70 ml) and 5% NaHCO3 solution( 40 ml). The organic phase was washed with saturated NaCl solution (50 ml), dried with Na2SO4, filtered and the solvent removed under reduced presure. The residue was suspended in ether (10 ml), filtered, washed with ether then dried under vacuum (0.05 mmHg, 60 ° C.), to afford the title compound was a white solid (260 mg, 85% yield), MS: m/e=390.0 (M+).

reactant | 2-amino-4-methoxy-7-phenyl-benzothiazole | 0.67 mmol, 200 mg | NC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC | C14H12N2OS
reactant | triethylamine | 1.17 mmol | C(C)N(CC)CC | C6H15N
reactant | 2-methoxybenzoyl chloride | 1 mmol | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
solvent | THF | C1CCOC1 | C4H8O
catalyst | DMAP | 0.08 mmol, 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-Methoxy-N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-benzamide | COC1=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3=CC=CC=C3)OC)C=CC=C1 | C22H18N2O3S
